.subckt OR Va Vb Vout vdd gnd

.INCLUDE NOR/NOR.sub
.INCLUDE INVERTER/INVERTER.sub

x1 Va Vb Vout1 vdd gnd NOR
x2 Vout1 Vout vdd gnd INVERTER

.ends OR